Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
syncope
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Briefly this is a
___ yo M brought in for syncope. He works here at ___ in the 
parking garage. He became sweaty, dizzy, flushed, shaky, and 
unsteady. He was helped ot the ground by witnesses. A code was 
called, he was in NSR with normal BP. Revived at the time of 
code team arrival. No trauma. No chest pain, shortness of 
breath, or palpitations.
.
In the ED, initial VS: 97.7 84 142/80 16 99%. He received ASA 
325mg.
EKG was NSR at 81 with NI/NA and no ischemic changes. Labs 
remarkable for a BUN of 26 with a baseline of 15. Cr was 1.1 
which is his baseline. Trop <0.01. WBC normal at 6.9 with slight 
left shift.
.
On arrival to the floor Mr. ___ reports that he feels back to 
his baseline but is tired. No CP, SOB, dizziness or weakness. 
This morning, he feels much better. Got some fluid overnight. No 
further syncopal symptoms. Denies nausea, vomiting, chest pain, 
shortness of ___, fevers, or chills. Mild epigastric pain, 
this is common in the last month and was felt to be due to GERD- 
has outpatient EGD sheduled. He did syncopize ___ years ago- per 
previous D/C summary it was felt to be due to a medication 
effect secondary to percocet. No intervening syncope.
 
Past Medical History:
-Chronic low back pain
-Hypertriglyceridemia
-Hypogonadism
-GERD
 
Social History:
___
Family History:
Strong h/o esophageal CA in mother, father and sister all who 
are deceased. No DM, CAD, or HTN.
 
Physical Exam:
Admission Exam:
Vitals: 96.3 105/70 76 18 96% RA.
General: Well appearing middle aged M, alert, oriented to 
person, place, time and purpose, no acute distress
HEENT: Sclera anicteric, dry MM, oropharynx clear
Neck: supple, JVP not elevated
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi
CV: Regular rate, normal S1 + S2, no murmurs, rubs, gallops
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro: , CNII-XII intact, finger to nose intact, no gross 
sensory or motor deficits, gait normal

Discharge Exam:
Vitals: T97.3 BP102/68 P72 R18 97% RA.
Orthostatics: laying 110/65 p60, standing 105/70 p75
General: AAOx3 NAD
HEENT: Sclera anicteric, dry MM, oropharynx clear
Neck: supple, JVP not elevated
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi
CV: Regular rate, normal S1 + S2, no murmurs, rubs, gallops
Abdomen: soft, non-distended, bowel sounds present, no rebound 
tenderness or guarding, no organomegaly. Mild epigastric 
soreness to palpation
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro: , CNII-XII intact, finger to nose intact, no gross 
sensory or motor deficits, gait normal
 
Pertinent Results:
ADMISSION LABS:
___ 06:00PM   ___ PTT-22.4 ___
___ 06:00PM   PLT COUNT-225
___ 06:00PM   NEUTS-74.8* ___ MONOS-3.7 EOS-1.0 
BASOS-0.5
___ 06:00PM   WBC-6.9 RBC-4.91 HGB-15.5 HCT-44.7 MCV-91# 
MCH-31.4 MCHC-34.6 RDW-14.0
___ 06:00PM   cTropnT-<0.01
___ 06:00PM   estGFR-Using this
___ 06:00PM   GLUCOSE-159* UREA N-26* CREAT-1.1 SODIUM-134 
POTASSIUM-3.3 CHLORIDE-100 TOTAL CO2-25 ANION GAP-12
___ 06:46PM   D-DIMER-<150

DISCHARGE LABS:
___ 07:33AM BLOOD Glucose-94 UreaN-25* Creat-1.0 Na-137 
K-4.2 Cl-105

CARDIAC ENZYMES:
___ 06:00PM BLOOD cTropnT-<0.01
___ 07:33AM BLOOD cTropnT-<0.01
___ 07:33AM BLOOD CK(CPK)-133

EKG ___:
Sinus rhythm. Borderline left axis deviation. Left atrial 
abnormality. Compared to the previous tracing of ___ atrial 
ectopy is not seen. Heart rate is not quite as fast.

CXR (PA and LAT) ___:
Cardiac, mediastinal and hilar contours are normal. The 
pulmonary vascularity is normal. The lungs are clear. No pleural 
effusion or pneumothorax is seen. Tiny calcified granuloma 
within the right lower lobe is unchanged. IMPRESSION: No acute 
cardiopulmonary abnormality
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with hypertension, 
hypertriglyceridemia, hypogonadism who presented after a 
syncopal episode likely driven by a vasovagal event.

ACTIVE PROBLEMS:
1. SYNCOPE:  The patient describes his syncopal epsiode with a 
classic vasovagal prodrome including flushing, warmth, 
diaphoresis, tremulousness, and lightheadedness.  It is unclear 
if he lost conciousness, but a code was called in the parking 
lot, and he has no recollection of the events.  He sustained no 
trauma and was helped to the ground by witnesses.  CXR showed no 
abnormality.  His admission EKG was normal, and a night of 
telemetric monitoring failed to reveal arrhythmia.  He ruled out 
for MI with negative cardiac enzymes x 2.  Orthostatic vital 
signs revealed no positional BP drop, though an elevated HR was 
noted, suggesting possible dehydration.  He received fluids 
overnight.  He was hospitalized for a syncopal episode ___ years 
ago, which was felt to be due to percocet use at that time for 
chronic back pain. He was asymptomatic the following morning.  
He was able to ambulate without difficulty.  He was advised to 
followup with his cardiologist for an echocardiogram given his 
recurrent syncope.  He was also advised to take his doxazosin 
before bedtime to minimize daytime syncope.

INACTIVE PROBLEMS:
2. LOWER BACK PAIN:  He has chronic lower back pain but was 
comfortable while hospitalized.  He was continued on 
nortriptyline.  

3. EPIGASTRIC PAIN:  He complained of intermittent epigastric 
pain which has been persisting for about a month.  Per patient 
report, he has been on omeprazole with plans for EGD in the near 
future.  Ibuprofen was stopped, and the patient was instructed 
to take tylenol for back pain.

4.  HYPERTRIGLYCERIDEMIA:  He was continued on fish oil and 
fenofibrate.

5.  HYPOGONADISM:  On a q2weekly testosterone injection.

PENDING LABS AT DISCHARGE: none
TRANSITIONAL CARE ISSUES: 
- may require outpatient echocardiogram
 
Medications on Admission:
DOXAZOSIN 2 mg qhs
FENOFIBRATE 160 mg qd
IBUPROFEN 600 mg q4h prn
NORTRIPTYLINE 10 mg qhs
TESTOSTERONE CYPIONATE - 400 mg IM q2weeks
DOCUSATE 100 mg bid
FISH OIL-DHA-EPA 1,200 mg-144 mg Capsule - ___ caps qd
OMEPRAZOLE 20 mg qd
SENNA 17.2 mg qhs
 
Discharge Medications:
1. doxazosin 2 mg Tablet Sig: One (1) Tablet PO at bedtime.  
2. fenofibrate 160 mg Tablet Sig: One (1) Tablet PO qd ().  
3. nortriptyline 10 mg Capsule Sig: One (1) Capsule PO HS (at 
bedtime).  
4. testosterone cypionate 200 mg/mL Oil Sig: Four Hundred (400) 
mg Intramuscular every 2 weeks.  
5. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
6. senna 8.6 mg Tablet Sig: Two (2) Tablet PO at bedtime.  
7. fish oil-dha-epa ___ mg Capsule Sig: ___ Capsules 
PO once a day.  
8. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY: syncope, likely vasovagal versus hypovolemic

SECONDARY: hypogonadism, hypertriglyceridemia, chronic back pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital after fainting.  This was 
likely due to being dehydrated. Your heart was normal based on 
our EKG and blood tests.  You were released after spending the 
night and getting some intravenous fluids.  

NO CHANGES were made to your medications, please continue all 
meds as previously prescribed.  Please refrain from using 
ibuprofen if your belly continues to hurt, as it can cause 
severe stomach irritation and bleeding.

Please be sure to take doxazosin prior to bedtime, as it can 
occasionally cause falling episodes as well.

It was a pleasure working with you, Mr. ___.
 
Followup Instructions:
___